US08461151B2
c) 8-Chloro-1-(4-oxo-cyclohexyl)-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulene-5-carboxylic acid tert-butyl ester
To a solution of oxalyl chloride (0.11 ml, 1.3 mmol) in dichloromethane (8 ml) was added dimethylsulfoxide (0.21 ml, 2.6 mmol) at −60° C. The mixture was stirred for 5 minutes at −50° C. A solution of cis/trans-8-chloro-1-(4-hydroxy-cyclohexyl)-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulene-5-carboxylic acid tert-butyl ester (0.046 g, 1.1 mmol) in dichloromethane (3 ml) was added at −65° C. Stirring for 30 minutes was followed by addition of triethylamine (0.77 ml, 5.5 mmol). The cooling bath was removed 5 minutes after completed addition, and the reaction mixture was stirred for 1 h. The reaction mixture was washed with one portion of aqueous saturated ammonium chloride solution. The aqueous layer was extracted with three portions of tert-butyl methyl ether. The combined organic layers were dried over anhydrous sodium sulfate and concentrated in vacuo. Flash-chromatography with n-heptane/ethyl acetate as eluent gave the title compound (0.41 g, 90%) as white solid. MS m/e: 417 ([[M+H]]+)

reactant | oxalyl chloride | 1.3 mmol, 0.11 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 2.6 mmol, 0.21 ml | CS(=O)C | C2H6OS
reactant | trans-8-chloro-1-(4-hydroxy-cyclohexyl)-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulene-5-carboxylic acid tert-butyl ester | 1.1 mmol, 0.046 g | C(C)(C)(C)OC(=O)N1CC2=C(N3C(=NN=C3C1)[C@@H]1CC[C@H](CC1)O)C=CC(=C2)Cl | C21H27ClN4O3
reactant | triethylamine | 5.5 mmol, 0.77 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 8-Chloro-1-(4-oxo-cyclohexyl)-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulene-5-carboxylic acid tert-butyl ester | 0.41 g, 90% | C(C)(C)(C)OC(=O)N1CC2=C(N3C(=NN=C3C1)C1CCC(CC1)=O)C=CC(=C2)Cl | C21H25ClN4O3
